US05512575
b. 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylcarbonyl)piperidin-4-ol
To a solution of 9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid (24.1 mmol) in toluene (70 mL) was added thionyl chloride (2.28 mL, 31.3 mmol, 1.3 eq). The reaction was heated to reflux monitoring gas evolution with a mineral oil bubbler. The system reached a steady state within 40 min at which time it was slightly cooled and 4-hydroxypiperidine (6.08 g, 60.3 mmol, 2.5 eq) was added portionwise. A significant amount of heat is evolved and the reaction became dark. The suspension was heated to reflux for 2 h, cooled to room temperature and stirred for 18 h. The reaction was diluted with ethyl acetate (200 mL) and washed with 3N HCl (2×100 mL), 2.5N NaOH (2×100 mL) and saturated brine (200 mL). The organic phase was dried over anhydrous magnesium sulfate, filtered, and reduced to an oil. The procedure yielded the title compound in quantitative yield as a viscous oil. TLC analysis (Rf 0.54, 10 % methanol in CHCl3). MS (Cl, CH4) m/z 320 (M+1,100), 348 (M+29,22), 302 (16).

reactant | 9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid | 24.1 mmol | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)O | C16H12O2
reactant | thionyl chloride | 31.3 mmol, 2.28 mL, 1.3 eq | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxypiperidine | 60.3 mmol, 6.08 g, 2.5 eq | OC1CCNCC1 | C5H11NO
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylcarbonyl)piperidin-4-ol | quantitative yield | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)N3CCC(CC3)O | C21H21NO2
